US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(5-methoxy-indan-1-yl)-acetamide:
prepared by reaction of 1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 1-amino-5-methoxy-indane

reactant | 1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2NCCC3=CC(=C(C=C23)OC)OC)C=CC1OC | C20H25NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 1-amino-5-methoxy-indane | NC1CCC2=CC(=CC=C12)OC | C10H13NO
product | 2-[1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(5-methoxy-indan-1-yl)-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NC2CCC3=CC(=CC=C23)OC)C=CC1OC | C32H38N2O6
